US03956494
One gram of 2-methoxy-N-methyl-3-morpholino-2-(2-pyridyl)thiopropanamide in ether is added to ethereal hydrogen chloride. The resulting precipitate is filtered off and recrystallized from ethanol/ether to give 2-methoxy-N-methyl-3-morpholino-2-(2-pyridyl)thiopropanamide hydrochloride.

reactant | 2-methoxy-N-methyl-3-morpholino-2-(2-pyridyl)thiopropanamide | One gram | COC(C(=S)NC)(CN1CCOCC1)C1=NC=CC=C1 | C14H21N3O2S
reactant | hydrogen chloride | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 2-methoxy-N-methyl-3-morpholino-2-(2-pyridyl)thiopropanamide hydrochloride | Cl.COC(C(=S)NC)(CN1CCOCC1)C1=NC=CC=C1 | InChI=1S/C14H21N3O2S.ClH/c1-15-13(20)14(18-2,12-5-3-4-6-16-12)11-17-7-9-19-10-8-17;/h3-6H,7-11H2,1-2H3,(H,15,20);1H
